US05426119
6-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)-hex-5-enoic acid
3.1 g of 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoic acid (prepared analogously to Example 10d) are stirred into 150 ml of dioxan with 5 ml of saturated potassium carbonate solution. Then 2.9 g of 4-fluorobenzenesulphonic acid chloride in 20 ml of dioxan are added and the resulting mixture is stirred overnight at ambient temperature. Acetic acid is added and a precipitate is formed. This is separated off and taken up in ethyl acetate, then dried and evaporated down. Finally, the residue is chromatographed over a silica gel column using chloroform/methanol 20:1 as eluant.

reactant | 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoic acid | 3.1 g | NCCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C19H22N2O2
reactant | potassium carbonate | 5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzenesulphonic acid chloride | 2.9 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 6-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)-hex-5-enoic acid | FC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C25H25FN2O4S
